US04321406
Ethylene glycol (0.2 mols) and dimethyl 2-vinylcyclopropane-1,1-dicarboxylate (0.2 mols) were combined with 0.1 gms dibutyltin diacetate and 0.1 gms hydroquinone. The temperature was gradually raised to 185° C. over a 3 hour period and then maintained for an additional 41/2 hours during which time about 3.2 gms methanol was collected. The temperature was then reduced to about 80° C. and a vacuum (0.1 mm Hg) pulled on the system to remove final traces of volatile products. The resulting light viscous oil (38.5 gms) contained some monomeric product but consisted primarily of oligomeric products of up to about 5 repeating units. A portion of the product containing 5% benzoin isobutyl ether was spread on a glass plate and upon irradiation with an ultraviolet light source provided a transparent, tack-free, resilient polymer film. Similar products are obtained when 2-vinylcyclopropane-1,1-dicarboxylic acid is esterified with ethylene glycol and diethylene glycol.

reactant | Ethylene glycol | 0.2 mols | C(CO)O | C2H6O2
reactant | dimethyl 2-vinylcyclopropane-1,1-dicarboxylate | 0.2 mols | C(=C)C1C(C1)(C(=O)OC)C(=O)OC | C9H12O4
reactant | dibutyltin diacetate | 0.1 gms | C(C)(=O)[O-].C(C)(=O)[O-].C(CCC)[Sn+2]CCCC
reactant | hydroquinone | 0.1 gms | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | methanol | about 3.2 gms | CO | CH4O
product | 2-vinylcyclopropane-1,1-dicarboxylic acid | C(=C)C1C(C1)(C(=O)O)C(=O)O | C7H8O4
